US08629270B2
5-[(4aR,7aR)-2-Amino-6-[5-fluoro-4-(2-hydroxypropan-2-yl)pyrimidin-2-yl]-4a,5,6,7-tetrahydropyrrolo[3,4-d][1,3]thiazin-7a(4H)-yl]thiophene-2-carbonitrile hydrochloride
To a stirred solution of the 5-[(4aR,7aR)-2-amino-6-[5-fluoro-4-(2-hydroxypropan-2-yl)pyrimidin-2-yl]-4a,5,6,7-tetrahydropyrrolo[3,4-d][1,3]thiazin-7a(4H)-yl]thiophene-2-carbonitrile (256 mg, 612 μmol) in diethyl ether (20 mL) is added a solution of 1 M HCl in diethyl ether (673 μL, 0.673 mmol). The resulting white mixture is stirred for a few minutes, and then the solid is collected by vacuum filtration, and is rinsed with diethyl ether, to give the title compound (201 mg, 72%) as a white solid. MS/ES (m/z) 419.2 (M+H).

reactant | 5-[(4aR,7aR)-2-amino-6-[5-fluoro-4-(2-hydroxypropan-2-yl)pyrimidin-2-yl]-4a,5,6,7-tetrahydropyrrolo[3,4-d][1,3]thiazin-7a(4H)-yl]thiophene-2-carbonitrile | 612 μmol, 256 mg | NC=1SC[C@H]2[C@@](N1)(CN(C2)C2=NC=C(C(=N2)C(C)(C)O)F)C2=CC=C(S2)C#N | C18H19FN6OS2
reactant | HCl | 1 M | Cl | ClH
solvent | diethyl ether | 20 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 0.673 mmol, 673 μL | C(C)OCC | C4H10O
product | 5-[(4aR,7aR)-2-Amino-6-[5-fluoro-4-(2-hydroxypropan-2-yl)pyrimidin-2-yl]-4a,5,6,7-tetrahydropyrrolo[3,4-d][1,3]thiazin-7a(4H)-yl]thiophene-2-carbonitrile hydrochloride | 201 mg, 72% | Cl.NC=1SC[C@H]2[C@@](N1)(CN(C2)C2=NC=C(C(=N2)C(C)(C)O)F)C2=CC=C(S2)C#N | InChI=1S/C18H19FN6OS2.ClH/c1-17(2,26)14-12(19)6-22-16(23-14)25-7-10-8-27-15(21)24-18(10,9-25)13-4-3-11(5-20)28-13;/h3-4,6,10,26H,7-9H2,1-2H3,(H2,21,24);1H/t10-,18-;/m0./s1
